US04962103
(2R,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-cyanomethyl-4-benzoyloxypyrrolidine (3.0 g) was dissolved in 10 ml of acetic acid and 10 ml of conc. hydrochloric acid. After refluxing for 3 hours, the reaction mixture was cooled down to room temperature and distilled to remove the solvent. The residue was diluted with 4 ml of water and 25 ml of 1N sodium hydroxide solution. A solution of 1.53 g of p-nitrobenzyl chloroformate in 6 ml of diethyl ether and 2 ml of tetrahydrofuran was added to the above mixture at 0° C., followed by stirring at the same temperature for 30 minutes. The reaction mixture was separated. The aqueous layer was acidified with 6N hydrochloric acid to pH 1.0 and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation to give (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-carboxymethyl-4-hydroxypyrrolidine.

reactant | (2R,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-cyanomethyl-4-benzoyloxypyrrolidine | 3.0 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)CC#N)C=C1 | C21H19N3O6
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-carboxymethyl-4-hydroxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CC(=O)O)C=C1 | C14H16N2O7
